US07384974B2
1.3 mL of phosphorus oxychloride was added dropwise to 1.6 mL of dimethylformamide under ice cooling, after which the system was brought up to room temperature and stirred for 30 minutes. To this was added at room temperature a 50 mL chloroform solution of 1.8 g of 5,7-dimethyltetralone, and the system was refluxed under heating overnight. After the reaction, water was added and the system was stirred for 30 minutes, after which the organic layer was washed first with a saturated sodium hydrogencarbonate aqueous solution and then with saturated brine, dried with magnesium sulfate, and then subjected to reduced-pressure solvent distillation, and the residue was refined by silica gel column chromatography (5% ethyl acetate/hexane) to obtain 2.0 g of 1-chloro-2-formyl-3,4-dihydronaphthalene in the form of a brown solid.

reactant | phosphorus oxychloride | 1.3 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 1.6 mL | CN(C=O)C | C3H7NO
reactant | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
reactant | 5,7-dimethyltetralone | 1.8 g | CC1=C2CCCC(C2=CC(=C1)C)=O | C12H14O
solvent | water | O | H2O
product | 1-chloro-2-formyl-3,4-dihydronaphthalene | 2.0 g | ClC1=C(CCC2=CC=CC=C12)C=O | C11H9ClO
